US04043993
Nα -Burlorycarbonyl-N-im -benzyl-L-histidyl-O-benzyl-L-tyrosyl-O-benzyl-L-seryl-L-histidyl-D-alanine N-ethylamide
Nα -Butoxycarbonyl-Nim -benzyl-L-histidyl-O-benzyl-L-tyrosyl-O-benzyl-L-seryl-L-histidyl-D-alanine methyl ester, 0.3 g., (Example 18) is treated with 200 ml. of methanol and 5 ml. of ethylamine at room temperature for three days. The above named product is isolated after evaporation of the solvent and the chromatographing of the residue on a silica gel column with ten percent methanol in benzene; 0.21 g.; m.p. 83°-88° C.

reactant | benzyl-L-histidyl-O-benzyl-L-tyrosyl-O-benzyl-L-seryl-L-histidyl-D-alanine methyl ester | COC([C@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NCC1=CC=CC=C1)CC1=CNC=N1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)COCC1=CC=CC=C1)=O)CC1=CNC=N1)=O)C)=O | C49H55N9O8
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | CO | CH4O
product | benzyl-L-histidyl-O-benzyl-L-tyrosyl-O-benzyl-L-seryl-L-histidyl-D-alanine N-ethylamide | C(C)NC([C@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NCC1=CC=CC=C1)CC1=CNC=N1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)COCC1=CC=CC=C1)=O)CC1=CNC=N1)=O)C)=O | C50H58N10O7
